US04891363
dl-trans-3-(Tetrahydropyran-2-yloxy)tetrahydropyran-2-ylmethanol
2.93 g of dl-trans-2-benzyloxymethyl-3-(tetrahydropyran-2-yloxy)tetrahydropyran (prepared as described in Preparation 35) were dissolved in 130 ml of tetrahydrofuran and were then hydrogenated at room temperature for 8 hours in the presence of 1.30 g of a 10% w/w palladium on activated carbon catalyst and of hydrogen at an initial pressure of 4 atmospheres (about 4 bars). The catalyst was removed by filtration, and then the solvent was distilled off. The resulting residue was purified by column chromatography through 50 g of silica gel. Those fractions eluted with mixtures of hexane and diethyl ether ranging from 2:1 to 1:1 by volume were worked up to give 1.87 g of the title compound as a colorless oil.

reactant | trans-2-benzyloxymethyl-3-(tetrahydropyran-2-yloxy)tetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@H]1OC1OCCCC1 | C18H26O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
catalyst | palladium on activated carbon | [Pd] | Pd
product | trans-3-(Tetrahydropyran-2-yloxy)tetrahydropyran-2-ylmethanol | 1.87 g | O1C(CCCC1)O[C@H]1[C@@H](OCCC1)CO | C11H20O4
